Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine Containing Agents Classifier / Uroxatral / Simvastatin / 
Zetia / Coreg / Celexa / Oxazepam / Lipitor / Lisinopril
 
Attending: ___
 
___ Complaint:
hyperglycemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH CAD s/p MI x2 and prior alcohol abuse presenting 
with 2 weeks of polydypsia and polyuria and hyperglycemia to 
>500 at PCP ___. He was in his normal state of health when he 
noticed he was drinking much more water than usual ___ cups) 
and increased urine output at night ___ voids per night). He 
also experienced fatigue, frontal headache, and occasional left 
leg cramping at night that he describes as a ___ horse." He 
denies URI symptoms, fever/chills, chest pain, SOB, diarrhea, 
nausea/vomiting, or dysuria. No change in vision. Over the past 
couple days, he does report indulging in more sweets than 
typical because of the holidays.  
 
In the ED, initial vs were 98.1 55 124/67 16 99% RA. He received 
2L NS and Regular insulin 10 units IV.  
On arrival to the floor, patient reports feeling well and denies 
complaints. His vitals on arrival: 98.5 157/68 51 18 100RA.  
 
REVIEW OF SYSTEMS:  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
All other 10-system review negative in detail.  

 
Past Medical History:
Hypertension  
CAD (MI x2 in ___ and ___)  
Spinal Stenosis  
GERD  
BPH  
OSA (does not require CPAP)  
Anxiety  
Prior alcohol abuse, sober ___ years  
s/p laparoscopic cholecystectomy ___  
s/p repair of bilateral rotator cuff  
Right knee arthroscopy  

 
Social History:
___
Family History:
Mother had a 4-vessel CABG, was diabetic (bilateral lower 
extremity amputation and renal failure, and died at age ___ of 
multiple causes.  Father died of widely metastatic cancer, no 
primary source ever found, in his mid ___.  Pt has a sister who 
is healthy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS 98.5 157/68 51 18 100RA.  
GEN Alert, oriented, no acute distress  
HEENT NCAT, EOMI sclera anicteric, OP clear, MMM  
NECK supple, no JVD, no LAD  
PULM Good aeration, CTAB no wheezes, rales, ronchi  
CV RRR normal S1/S2, no mrg  
ABD soft NT ND normoactive bowel sounds, no r/g  
EXT WWP 2+ pulses palpable bilaterally, no c/c/e  
NEURO CNs2-12 intact, motor function grossly normal  
SKIN no ulcers or lesions  

DISCHARGE PHYSICAL EXAM:
VS 97.9 140/77 52 18 99RA  
FSG: ___ fasting)  
GEN Alert, oriented, no acute distress  
HEENT NCAT, EOMI sclera anicteric, OP clear, MMM  
NECK supple, no JVD, no LAD  
PULM Good aeration, CTAB no wheezes, rales, ronchi  
CV RRR normal S1/S2, no mrg  
ABD soft NT ND normoactive bowel sounds, no r/g  
EXT WWP 2+ pulses palpable bilaterally, no c/c/e  
NEURO CNs2-12 intact, motor function grossly normal  
SKIN no ulcers or lesions  

 
Pertinent Results:
ADMISSION LABS:
___ 10:35AM BLOOD WBC-6.6 RBC-5.52 Hgb-17.3 Hct-49.1 MCV-89 
MCH-31.3 MCHC-35.2* RDW-12.3 Plt ___
___ 10:35AM BLOOD Neuts-72.9* ___ Monos-5.6 Eos-1.9 
Baso-0.9
___ 10:35AM BLOOD Glucose-566* UreaN-20 Creat-0.9 Na-131* 
K-5.0 Cl-93* HCO3-25 AnGap-18
___ 10:35AM BLOOD CK(CPK)-62
___ 10:35AM BLOOD CK-MB-3 cTropnT-<0.01
___ 04:45PM BLOOD Calcium-8.6 Phos-2.5* Mg-1.9
___ 04:45PM BLOOD %HbA1c-11.3* eAG-278*

DISCHARGE LABS:
___ 06:30AM BLOOD WBC-6.1 RBC-4.64 Hgb-14.5 Hct-40.8 MCV-88 
MCH-31.3 MCHC-35.6* RDW-12.4 Plt ___
___ 07:10AM BLOOD Glucose-199* UreaN-14 Creat-0.7 Na-136 
K-3.8 Cl-102 HCO3-26 AnGap-12
___________________________________________________

EKG: ___  1:40:24 ___ 
Sinus bradycardia. Probable prior inferior myocardial infarction 
and 
borderline Q-T interval prolongation. Compared to the previous 
tracing  
of ___ no diagnostic interval change.   QTC ___ with PMH significant for CAD s/p MI ___, HTN, and 
hyperlipidemia who presented with hyperglycemia, polydypsia and 
polyuria consistent with new onset diabetes mellitus.

Active Issues: 
# New onset diabetes: He presentated with polyuria/polydypsia 
and critically high blood sugars requiring treatment with IVF 
and IV regular insulin.  Notably, there was no anion gap or 
altered mental status.  Also, there was no clear infectious or 
cardiac trigger to this hyperglycemia (cardiac enzymes negative 
x1).  HgbA1c was 11.3%.  He was seen by ___ and started 
Lantus, Humalog sliding scale and Metformin.  He experienced 
some GI upset and diarrhea with metformin which resolved in less 
than 12 hours.  He resumed diabetic po diet and his insulin 
regimen was titrated by ___ daily.  Diabetes diet, 
blood-sugar monitoring and insulin self-injection teaching was 
done. He was discharged home with Lantus, Humalog sliding scale, 
and metformin.  He will be seen by ___ and ophthalmology for 
follow-up.

Chronic Issues:
# Hypertension: stable, continued losartan  

# CAD: Hx of silent MI x2. Cardiac enzymes negative x1 this 
admission (checked because concern of another silent MI as 
precipitant of hyperglycemia).  He continued aspirin, losartan, 
and metoprolol.  

# BPH: stable, continued finasteride.  

# Anxiety/Depression: stable, continued paroxetine  

TRANSITIONAL ISSUES:
# ___ to follow up and may increase Metformin to 1000mg BID.
# He will contact his ophthalmologist Dr. ___ 
diabetic eye check within a week.
# Full code (confirmed)
# EMERGENCY CONTACT: HCP: ___ (wife): ___  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
hold for sbp<100 
3. Ciprofloxacin 0.3% Ophth Soln 2 DROP BOTH EARS HS 
4. Clotrimazole Cream 1 Appl TP BID 
apply to ear lobes as needed for rash 
5. Metoprolol Succinate XL 12.5 mg PO DAILY 
hold for sbp<100 and hr <60 
6. Nitroglycerin SL 0.4 mg SL PRN chest pain 
If chest pain, give SLN, wait 5 minutes, then repeat if needed, 
get EKG, and call ___ 
7. Omeprazole 20 mg PO DAILY 
8. Paroxetine 5 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Ciprofloxacin 0.3% Ophth Soln 2 DROP BOTH EARS HS 
3. Clotrimazole Cream 1 Appl TP BID 
apply to ear lobes as needed for rash 
4. Finasteride 5 mg PO DAILY 
5. Fish Oil (Omega 3) 1000 mg PO DAILY 
6. Losartan Potassium 50 mg PO DAILY 
hold for sbp<100 
7. Metoprolol Succinate XL 12.5 mg PO DAILY 
hold for sbp<100 and hr <60 
8. Nitroglycerin SL 0.4 mg SL PRN chest pain 
If chest pain, give SLN, wait 5 minutes, then repeat if needed, 
get EKG, and call ___ 
9. Omeprazole 20 mg PO DAILY 
10. Paroxetine 5 mg PO DAILY 
11. Glargine 14 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
RX *blood sugar diagnostic ___ Aviva]   Please use 1 
strip to test blood sugar with glucometer four times a day Disp 
#*120 Unit Refills:*3
RX *blood sugar diagnostic [Precision Point Of Care Test]   Use 
one strip to test blood sugar four times a day Disp #*60 Unit 
Refills:*0
RX *insulin glargine [Lantus] 100 unit/mL  14 Units before BED; 
Disp #*1 Bottle Refills:*3
RX *blood-glucose meter ___ Nano]   PLease use to test 
blood sugar four times a day Disp #*1 Unit Refills:*0
RX *insulin lispro [Humalog] 100 unit/mL Up to 10 Units  per 
sliding scale four times a day Disp #*1 Bottle Refills:*3
RX *lancets [Easy Touch Lancets]   Please use with lancing 
device four times a day Disp #*120 Unit Refills:*3
RX *insulin syringe-needle U-100 [BD Insulin Syringe Ult-Fine 
II] 31 gauge x ___ please use to administer insulin four times 
a day Disp #*120 Syringe Refills:*3
12. MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin [Glucophage] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
New diagnosis of diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure to care for you at ___.  You were admitted 
for a new diagnosis of diabetes and started on 2 types of 
insulin and metformin to help control your blood sugar.

We had you meet with a dietician to help your diet and to 
emphasize portion control.  It is important to focus on diet and 
exercise to help improve your blood sugars.
 
Followup Instructions:
___